US06355642B1
2a-[4-{4-(4-Chlorophenyl)-4-hydroxy-piperidyl}butyl]-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one
2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one (390 mg, 1.3 mmol), 4-(4-chlorophenyl) -4-hydroxypiperidine (290 mg, 1.4 mmol) and potassium carbonate (260 mg, 1.9 mmol) were stirred in anhydrous N,N-dimethylformamide (10 ml) at 60° C. for 3 hours. The solvent was evaporated under a reduced pressure, and the thus obtained residue was mixed with ethyl acetate and water. The reaction product was extracted with ethyl acetate, washed with saturated brine and dried with anhydrous sodium sulfate. Then the compound obtained by the evaporation of the solvent under a reduced pressure was separated and purified by a silica gel column chromatography to obtain 490 mg of the title compound (1.1 mmol, 90% in yield).

reactant | 2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 1.3 mmol, 390 mg | BrCCCCC12C(NC=3C=CC=C(C13)CCC2)=O | C15H18BrNO
reactant | 4-(4-chlorophenyl) -4-hydroxypiperidine | 1.4 mmol, 290 mg | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | potassium carbonate | 1.9 mmol, 260 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2a-[4-{4-(4-Chlorophenyl)-4-hydroxy-piperidyl}butyl]-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 1.1 mmol, 490 mg, 90% | ClC1=CC=C(C=C1)C1(CCN(CC1)CCCCC12C(NC=3C=CC=C(C13)CCC2)=O)O | C26H31ClN2O2
